US06169102A
5-[1-(4-hydroxyindol-3-yl)ethyl]-2-methylamino-2-oxazolin-4-one
5-[1-(4-benzyloxyindol-3-yl)ethyl]-2-methylamino-2-oxazolin-4-one (149 mg) was dissolved in a mixture of ethanol and tetrahydrofuran (5:1.6 ml). 10% palladium-carbon (45 mg) was added and the whole was hydrogenated for 24 hours at room temperature under normal pressure. The catalyst was removed from the mixture by filtration and 10% palladium-carbon (45 mg) was added again. The whole was hydrogenated for additional 24 hours at room temperature under normal pressure. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated to give a residue, which was subjected to silica gel chromatography. Elution with hexane-acetone (1:1) provided the titled compound (72 mg).

reactant | 5-[1-(4-benzyloxyindol-3-yl)ethyl]-2-methylamino-2-oxazolin-4-one | 149 mg | C(C1=CC=CC=C1)OC1=C2C(=CNC2=CC=C1)C(C)C1C(N=C(O1)NC)=O | C21H21N3O3
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | 1.6 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 45 mg | [C].[Pd]
product | 5-[1-(4-hydroxyindol-3-yl)ethyl]-2-methylamino-2-oxazolin-4-one | 72 mg | OC1=C2C(=CNC2=CC=C1)C(C)C1C(N=C(O1)NC)=O | C14H15N3O3
